US08242104B2
Following the procedure in Example 17, methyl 4-hydroxy-3-(1H-imidazol-2-yl)benzoate reacted with 1,2-dibromoethane to give methyl 5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate. Yield 76%. MS (ESI+): 245.0. 1H NMR (400 MHz, CDCl3) δ 9.21 (d, J=2.2, 1H), 7.91 (dd, J=8.6, 2.2, 1H), 7.20 (t, J=4.8, 1H), 7.05 (d, J=8.6, 1H), 7.00 (d, J=0.8, 1H), 4.53-4.48 (m, 2H), 4.43-4.39 (m, 2H), 3.91 (d, J=5.9, 3H).

reactant | methyl 4-hydroxy-3-(1H-imidazol-2-yl)benzoate | OC1=C(C=C(C(=O)OC)C=C1)C=1NC=CN1 | C11H10N2O3
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
product | methyl 5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate | Yield 76% | N=1C=CN2CCOC3=C(C21)C=C(C=C3)C(=O)OC | C13H12N2O3
